US04997840
A mixture of potassium hydroxide (50.4 g), 4-chloro-7-trifluoromethylquinoline-1-oxide (21.8 g) and industrial methylated spirit (800 ml) was heated under reflux for 150 minutes. The solvent was evaporated, the residue was triturated with water (600 ml) and filtered. The filtrate was neutralised with glacial acetic acid (150 ml) with cooling and the resultant precipitate collected by filtration, washed with water (50 ml) and dried. The crude product was crystallised from methanol to give the novel compound 4-hydroxy-7-trifluoromethylquinoline-1-oxide, m.p. 208°-210°.

reactant | potassium hydroxide | 50.4 g | [OH-].[K+]
reactant | 4-chloro-7-trifluoromethylquinoline-1-oxide | 21.8 g | ClC1=CC=[N+](C2=CC(=CC=C12)C(F)(F)F)[O-] | C10H5ClF3NO
product | 4-hydroxy-7-trifluoromethylquinoline-1-oxide | OC1=CC=[N+](C2=CC(=CC=C12)C(F)(F)F)[O-] | C10H6F3NO2
